US06552188B2
Synthesis of ethyl 2-(3,4-dimethoxyphenyl)isonicotinate
3,4-Dimethoxyphenylboronic acid (215 mg) and ethyl 2-chioroisonicotinate (200 mg) were treated in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 3,4-Dimethoxyphenylboronic acid | 215 mg | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | ethyl 2-chioroisonicotinate | 200 mg | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
product | ethyl 2-(3,4-dimethoxyphenyl)isonicotinate | COC=1C=C(C=CC1OC)C=1C=C(C(=O)OCC)C=CN1 | C16H17NO4
